US05942644
Twenty grams of bakers' yeast (Sigma Chemical Company, type II) are suspended in an aqueous solution containing 30 grams of sucrose in a conical flask, and the mixture is placed on an orbital shaker (220 rpm) at 30° C. for 30 minutes to initiate fermentation. Two grams of 5-hydroxy-2-carboethoxy-1-indanone is dissolved in 2 ml of 95% ethanol, the resulting solution is added to the fermenting yeast, and shaking is resumed. The reaction is followed by TLC (staining with anisaldehyde) to monitor the consumption of starting material and the production of product alcohol. After approximately 48 hours the reaction is judged complete, and the reaction is terminated by removing from the shaker and adding 20-30 grams of Celite. The resulting suspension is suction filtered through a pad of Celite and the clear yellow filtrate is extracted with ethyl acetate (4×200 ml). The extracts are combined, dried over MgSO4, filtered, and rotary evaporated to leave 1.5 grams of (1S,2R)-1-hydroxy-2-carboethoxy-5-hydroxyindane as a yellowish oil (>95% enantiomeric excess as judged by chiral chromatography).

reactant | sucrose | 30 grams | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | 5-hydroxy-2-carboethoxy-1-indanone | Two grams | OC=1C=C2CC(C(C2=CC1)=O)C(=O)OCC | C12H12O4
reactant | anisaldehyde | COC=1C=CC(=CC1)C=O | C8H8O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | (1S,2R)-1-hydroxy-2-carboethoxy-5-hydroxyindane | 1.5 grams | O[C@H]1[C@@H](CC2=CC(=CC=C12)O)C(=O)OCC | C12H14O4
